US04767769
Thionyl chloride (1249 ml) was added dropwise to dry dimethylformamide (400 ml) stirring at 0°-5° C. under nitrogen over a period of about 2 hours. 3-Methoxyphenylacetamide (403.7 g) was added portionwise over a period of 45 minutes to the above solution under nitrogen maintaining the temperature between 0°-5° C. The reaction mixture was then stirred at 0°-5° C. for a further 2 hours. The reaction mixture was poured carefully onto ice/water (6 l). The aqueous mixture was extracted with ether. The extracts were washed with water, dried over magnesium sulphate and evaporated in vacuo to give a red liquid. The crude product was distilled (110°-112° C./12 mm Hg) to give 3-methoxyphenylacetonitrile.

reactant | Thionyl chloride | 1249 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Methoxyphenylacetamide | 403.7 g | COC=1C=C(C=CC1)CC(=O)N | C9H11NO2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 3-methoxyphenylacetonitrile | COC=1C=C(C=CC1)CC#N | C9H9NO
